US04904653
3-Chloro-2,6-dimethyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride
A mixture of 3-chloro-2-hydroxymethyl-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine (0.20 g) and 10% palladium on carbon (50 mg) in acetic acid (2 ml) and concentrated hydrochloric acid (0.1 ml) was hydrogenated at 60 psi for 20 hours. The reaction mixture was filtered, evaporated and the residue chromatographed on silica eluting with 1% methanol-ammonia solution in dichloromethane. The combined fractions were dissolved in ethanolic hydrogen chloride, evaporated and crystallised from ethanol-diethylether to give the title product, m.p. 146° C.

reactant | 3-chloro-2-hydroxymethyl-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine | 0.20 g | ClC1=C(SC=2C(CN(CCC21)C)C2=CC=CC=C2)CO | C16H18ClNOS
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 0.1 ml | Cl | ClH
product | 3-Chloro-2,6-dimethyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride | Cl.ClC1=C(SC=2C(CN(CCC21)C)C2=CC=CC=C2)C | InChI=1S/C16H18ClNS.ClH/c1-11-15(17)13-8-9-18(2)10-14(16(13)19-11)12-6-4-3-5-7-12;/h3-7,14H,8-10H2,1-2H3;1H
